US04057647
1 g. of crude 3-(2',4'-difluoro-4-biphenylyl)-butyryl chloride and 10 ml. of n-propanol are warmed to 95° for 3 hours and the mixture is evaporated and worked up in the customary manner to give 3-(2',4'-difluoro-4-biphenylyl)butyric acid n-propyl ester.

reactant | 3-(2',4'-difluoro-4-biphenylyl)-butyryl chloride | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CC(=O)Cl)C | C16H13ClF2O
reactant | n-propanol | C(CC)O | C3H8O
product | 3-(2',4'-difluoro-4-biphenylyl)butyric acid n-propyl ester | C(CC)OC(CC(C)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F)=O | C19H20F2O2
